US04435320
(a) Preparation of 2-Chloro-3,5-bischlorosulphonylthiophene
2-Chlorothiophene (40 g) was added to stirred chlorosulphonic acid (400 ml) over a five minute period. The solution was then heated at 80°-90° C. for four hours, cooled to 30° C., and added to ice-water with stirring. The product was filtered off, washed with water and dried. The yield was 84 g.

reactant | 2-Chlorothiophene | 40 g | ClC=1SC=CC1 | C4H3ClS
reactant | chlorosulphonic acid | 400 ml | ClS(=O)(=O)O | ClHO3S
product | 2-Chloro-3,5-bischlorosulphonylthiophene | ClC=1SC(=CC1S(=O)(=O)Cl)S(=O)(=O)Cl | C4HCl3O4S3
